US05198449
N,α-Bis(4-fluorophenyl)-1-(2-quinolinylmethyl)-4-piperidinemethanamine ethanedioate hydrate (2:2:1)
A mixture of N,α-bis(4-fluorophenyl)-4-piperidinemethanamine (4.23 g, 0.014 mol), 2-(chloromethyl)quinoline monohydrochloride (3.00 g, 0.014 mol), and sodium bicarbonate (2.42 g, 0.029 mol) was stirred 32 h at room temperature in 350 mL of ethanol (200). The reaction was concentrated to dryness, and the residue obtained was dissolved in chloroform. The chloroform layer was extracted with water. The chloroform layer was dried (Na2SO4) and filtered. When the chloroform was removed by rotary evaporator, a dark brown oil was obtained. This oil was dissolved in methylene chloride and subjected to flash chromatography on silica gel. Elution was accomplished using methylene chloride, 1% methanol-methylene chloride, and 2% methanol-methylene chloride. Fractions of similar purity were combined, and the solvents were removed to give a brown oil. Attempts to prepare a crystalline HCl salt gave a substance which was extremely hydroscopic. This material was converted to the free base and subjected again to flash chromatography using the same solvent systems for elution. A brown oil was obtained and converted to the oxalate salt in methanol-diethyl ether. A white solid was isolated and dried in vacuo 16 h at 100° C. This process furnished 1.36 g (17.9%) of white crystalline solid, mp 180°-182° C.

reactant | N,α-bis(4-fluorophenyl)-4-piperidinemethanamine | 0.014 mol, 4.23 g | FC1=CC=C(C=C1)NC(C1CCNCC1)C1=CC=C(C=C1)F | C18H20F2N2
reactant | 2-(chloromethyl)quinoline monohydrochloride | 0.014 mol, 3.00 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | sodium bicarbonate | 0.029 mol, 2.42 g | C([O-])(O)=O.[Na+]
reactant | HCl | Cl | ClH
reactant | methanol diethyl ether | CO.C(C)OCC
solvent | ethanol | 350 mL | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N,α-Bis(4-fluorophenyl)-1-(2-quinolinylmethyl)-4-piperidinemethanamine ethanedioate hydrate | 1.36 g, 17.9% | O.C(C(=O)O)(=O)O.FC1=CC=C(C=C1)NC(C1CCN(CC1)CC1=NC2=CC=CC=C2C=C1)C1=CC=C(C=C1)F | InChI=1S/C28H27F2N3.C2H2O4.H2O/c29-23-8-5-21(6-9-23)28(32-25-13-10-24(30)11-14-25)22-15-17-33(18-16-22)19-26-12-7-20-3-1-2-4-27(20)31-26;3-1(4)2(5)6;/h1-14,22,28,32H,15-19H2;(H,3,4)(H,5,6);1H2
